US06992100B2
3. Preparation of 1-Methoxy-5,6,7,8-tetrahydronaphthalene-2-boronic acid
To a stirred mixture of 6-bromo-5-methoxy-1,2,3,4-tetrahydronaphthalene, (15 g, 62.21 mmol) in THF (150 mL) cooled to 0° C. was added n-butyllithium (43.14 mL, 69.03 mmol, 1.6M solution in hexanes) over 5 min. The reaction mixture was stirred for 1 h then cooled to −78° C., and triisopropyl borate (21.72 mL, 17.7 g, 94.14 mmol) was added dropwise over 0.25 h. The mixture was allowed to warm to room temperature with stirring then poured into 1N HCl (100 mL). The product was extracted with ethyl acetate (4×100 mL), the combined organic extracts dried over anhydrous sodium sulfate, and filtered. After concentrating the filtrate in vacuo at ambient temperature, the oily yellow residue was partially dissolved in diethyl ether, triturated with hexane, and the resulting precipitate filtered and washed with hexane to afford 1.64 g (13%) of the title compound 1-methoxy-5,6,7,8-tetrahydronaphthalene-2-boronic acid as an off-white crystalline solid (MW 206.05, C11H15BO3).

reactant | 6-bromo-5-methoxy-1,2,3,4-tetrahydronaphthalene | 62.21 mmol, 15 g | BrC=1C(=C2CCCCC2=CC1)OC | C11H13BrO
reactant | n-butyllithium | 69.03 mmol, 1.6M, 43.14 mL | C(CCC)[Li]
reactant | triisopropyl borate | 94.14 mmol, 21.72 mL, 17.7 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-Methoxy-5,6,7,8-tetrahydronaphthalene-2-boronic acid | 1.64 g, 13% | COC1=C(C=CC=2CCCCC12)B(O)O | C11H15BO3
